US09260427B2
Prepared using General Procedure 1: A stirred a solution of 1-bromo-4-(heptyloxy)benzene (2.0 g, 7.37 mmol), zinc cyanide (1.73 g, 14.74 mmol) and tetrakis (triphenylphosphine) palladium (76.12 mg, 0.07 mol) in dry NMP (20 mL) was degassed with N2. The reaction was heated to 100° C. for 18 h while stirring under nitrogen. The reaction mixture was cooled and poured into water (100 mL) and DCM (20 mL). The solid material was removed by filtration and the filtrate was extracted with water (3×20 mL). The organic layer was dried over MgSO4 and concentrated. The crude product was purified by chromatography (EA/hexanes) to afford 1.15 g (73%) of 4-(heptyloxy)benzonitrile as a light yellow solid. LCMS-ESI (m/z) calculated for C14H19NO: 217.1. found 218.1 [M+H]+, tR=11.14 min (Method 2). 1H NMR (400 MHz, CDCl3) δ 7.64-7.50 (m, 2H), 7.05-6.83 (m, 2H), 3.99 (t, J=6.5 Hz, 2H), 1.89-1.69 (m, 2H), 1.58-1.12 (m, 8H), 0.90 (dd, J=9.1, 4.5 Hz, 3H). 13C NMR (101 MHz CDCl3) δ 162.47, 133.91, 132.78, 132.12, 129.13, 119.31, 115.18, 103.58, 68.41, 31.73, 28.98, 25.89, 22.58, 14.07.

reactant | 1-bromo-4-(heptyloxy)benzene | 7.37 mmol, 2.0 g | BrC1=CC=C(C=C1)OCCCCCCC | C13H19BrO
reactant | NMP | 20 mL | CN1CCCC1=O | C5H9NO
catalyst | zinc cyanide | 14.74 mmol, 1.73 g | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis (triphenylphosphine) palladium | 0.07 mol, 76.12 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-(heptyloxy)benzonitrile | 1.15 g, 73% | C(CCCCCC)OC1=CC=C(C#N)C=C1 | C14H19NO
